US05767282
A solution of phenyl (hydroxy)thioacetate (0.237 g, 1.41 mmol) in THF (14.0 ml) was treated with trimethylsilyl chloride (0.643 ml, 5.07 mmol) and triethylamine (0.726 ml, 5.21 mmol) at room temperature. After stirring for 2 h at RT, the mixture was diluted with ethyl ether, washed with pH 7 phosphate buffer, dried (Na2SO4) and evaporated to give phenyl (trimethylsilyloxy)thioacetate (0.2315 g, 93%).

reactant | phenyl (hydroxy)thioacetate | 1.41 mmol, 0.237 g | OCC(=S)OC1=CC=CC=C1 | C8H8O2S
reactant | trimethylsilyl chloride | 5.07 mmol, 0.643 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 5.21 mmol, 0.726 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 14.0 ml | C1CCOC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | phenyl (trimethylsilyloxy)thioacetate | 0.2315 g, 93% | C[Si](OCC(=S)OC1=CC=CC=C1)(C)C | C11H16O2SSi
